US04672029
Preparation A: Preparation of N-Sulfopropyltetrahydroquinoline
In a round bottom flask fitted with a stirrer and reflux condenser were placed 50.0 g of tetrahydroquinoline, 48.8 g of 1,3-propanesultone and 500 ml of reagent grade acetonitrile solvent. The mixture was heated at reflux under a nitrogen blanket overnight. The reaction mixture was cooled to ice-bath temperature and the resulting white solid precipitate filtered and washed with cold acetonitrile. A yield of 58 g (60%) of crude product was obtained with a melting point over 200° . Nuclear magnetic resonance (NMR) and mass spectrometry analyses showed the product to be consistent with the assigned structure.

reactant | tetrahydroquinoline | 50.0 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 1,3-propanesultone | 48.8 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Sulfopropyltetrahydroquinoline | yield of 58 g, 60% | S(=O)(=O)(O)CCCN1CCCC2CC=CC=C12 | C12H19NO3S
